US04267179
To a stirred and cooled (ice-bath) mixture of 5 parts of N,N'-methanetetraylbis[cyclohexanamine], 25.2 parts of carbon disulfide and 40 parts of pyridine are added 6 parts of 4-[4-(4-methoxyphenyl)-1-piperazinyl]benzenamine and the whole is stirred first for 1 hour in an ice-bath and further for 2 hours at room temperature. 35 Parts of 2,2'-oxybispropane are added and the whole is stirred for 30 minutes. The precipitated product is filtered off and crystallized from 4-methyl-2-pentanone. The product is filtered off again and recrystallized from 1,4-dioxane, yielding 2.45 parts of 1-(4-isothiocyanatophenyl)-4-(4-methoxyphenyl)piperazine; mp. 180.6° C.

reactant | carbon disulfide | C(=S)=S | CS2
reactant | 4-[4-(4-methoxyphenyl)-1-piperazinyl]benzenamine | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N | C17H21N3O
reactant | 2,2'-oxybispropane | O(C(C)C)C(C)C | C6H14O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(4-isothiocyanatophenyl)-4-(4-methoxyphenyl)piperazine | N(=C=S)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC | C18H19N3OS
